### PR TITLE
x feat(FieldTheory): fg extension over perfect field is separably generated

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Christian Merten

---

- [x] depends on: #24344
- [x] depends on: #24346
- [x] depends on: #24347
- [x] depends on: #24348
- [x] depends on: #24349
- [x] depends on: #25062

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
@alreadydone This is the application I was talking about. I am splitting this PR up but it would be great If you could look at the two big proofs and try improving them (because the proof is currently very ugly).

File: Mathlib/FieldTheory/SeparablyGenerated.lean [hunk 1]
```diff
@@ -0,0 +1,422 @@
...
+where `a₁,...aₙ` forms a transcendental basis.
+Suppose furthermore that if `{ sᵢ } ⊆ K` is an arbitrary `k`-linearly independent set,
+`{ sᵢᵖ } ⊆ K` is also `k`-linearly independent (which is true when `K ⊗ₖ k^{1/p}` is reduced).
+
+Then some subset of `a₁,...,aₙ₊₁` forms a separable transcedental basis.
+-/
+@[stacks 0H71]
+lemma exists_isTranscendenceBasis_and_isSeparable_of_linearIndepOn_pow_of_adjoin_eq_top :
+    ∃ i : Fin (n + 1), IsTranscendenceBasis k (a ∘ Fin.succAbove i) ∧
+      Algebra.IsSeparable (IntermediateField.adjoin k (Set.range (a ∘ Fin.succAbove i))) K := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparablyGenerated.lean]: I'd state this and start the proof like this; I don't think the proof uses finiteness of ι.
```
variable {k K ι : Type*} [Field k] [Field K] [Algebra k K] (p : ℕ) [ExpChar k p] (hp : p.Prime)
variable (a : ι → K) (n : ι) (ha : IntermediateField.adjoin k (Set.range a) = ⊤)
variable (ha' : IsTranscendenceBasis k fun i : {i // i ≠ n} ↦ a i)
variable (H : ∀ s : Finset K,
  LinearIndepOn k _root_.id (s : Set K) → LinearIndepOn k (· ^ p) (s : Set K))

attribute [local instance 2000] Polynomial.isScalarTower Algebra.toSMul IsScalarTower.right in
open MvPolynomial in
open scoped IntermediateField in
include hp ha ha' H in
@[stacks 0H71]
lemma exists_isTranscendenceBasis_and_isSeparable_of_linearIndepOn_pow_of_adjoin_eq_top :
    ∃ i : ι, IsTranscendenceBasis k (fun j : {j // j ≠ i} ↦ a j) ∧
      Algebra.IsSeparable (IntermediateField.adjoin k (a '' {i}ᶜ)) K := by
  have : ¬ AlgebraicIndependent k a := by
    rw [AlgebraicIndependent.iff_transcendental_adjoin_image n]
    exact fun h ↦ h.2 (Set.image_eq_range .. ▸ ha'.isAlgebraic.isAlgebraic _)
  have HF : ∃ F : MvPolynomial ι k, F ≠ 0 ∧ MvPolynomial.aeval a F = 0 := by
    rw [algebraicIndependent_iff] at this
    push_neg at this
    simpa [and_comm]
  sorry
```

File: Mathlib/FieldTheory/SeparablyGenerated.lean [hunk 2]
```diff
@@ -0,0 +1,422 @@
...
+    congr 1
+    ext i
+    obtain ⟨_ | i, rfl⟩ := finSuccEquivLast.symm.surjective i <;>
+      simp [Subalgebra.algebraMap_eq, optionEquivLeft_X_none, optionEquivLeft_X_some]
+  replace HF : ∃ m, ∃ F : MvPolynomial (Fin (n + 1)) k, F.totalDegree = m ∧ F ≠ 0 ∧
+      MvPolynomial.aeval a F = 0 :=
+    have ⟨F, hF, h⟩ := HF; ⟨F.totalDegree, F, rfl, hF, h⟩
+  -- We choose the one with the least total degree `m`.
+  let m := Nat.find HF
+  obtain ⟨F, hm : _ = m, hF, h⟩ := Nat.find_spec HF
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparablyGenerated.lean:120]: It could be nice to extract some API around "minMvPoly" similar to `minpoly`.
[Function.argmin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/WellFounded.html#Function.argmin) or `argminOn` could be easier to use than `Nat.find`.

File: Mathlib/FieldTheory/SeparablyGenerated.lean [hunk 3]
```diff
@@ -0,0 +1,422 @@
...
+        congr! with ⟨s, hs⟩
+        exact (hσ' s hs).symm
+      · rw [not_linearIndependent_iff]
+        refine ⟨.univ, (F.coeff ·), ?_, by simpa [MvPolynomial.eq_zero_iff] using hF⟩
+        simp only [← map_smul, ← map_sum, Finset.univ_eq_attach, smul_eq_mul, mul_one]
+        rw [F.support.sum_attach (fun i ↦ monomial i (F.coeff i)),
+          support_sum_monomial_coeff, h])
+    simp only [LinearIndependent, injective_iff_map_eq_zero, not_forall] at this
+    obtain ⟨F', hF', hF'0⟩ := this
+    let F'' : MvPolynomial (Fin (n + 1)) k := F'.mapDomain fun s ↦ σ' s.1
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparablyGenerated.lean]: Looks like `mapDomain` is a bad choice and you can just use `comapDomain`. Might consider defining `MvPolynomial.contract` like [Polynomial.contract](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Expand.html#Polynomial.contract) and develop some API.

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean]: I need finiteness to conclude that the family `fun j : {j // j ≠ n} ↦ a j` is a transcendence basis (from the fact that its cardinality is equal to the transcendental degree).

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean]: I tried to do so but it is not that straightforward. You first have a polynomial `F` such that all variables appear as `p`-powers. You then obtain a relation between the non-`p`-powers from the linear independence assumption, and not via "`MvPolynomial.contract`".

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: Because the "minMvPoly" is highly non-unique (unless you pick a monomial order etc), it will be hard to provide any good API. Or I can try to corner you tomorrow and force you to give me some good API :)

**Comment by erdOne** [comment]
The proofs are now at most ~100 lines long and I am satisfied with them for now.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 4]
```diff
@@ -540,3 +540,41 @@ variable (R S A)
...
+      rintro _ ⟨j', hj', rfl⟩
+      obtain (rfl | H) := eq_or_ne j' i
+      · exact AlgebraicIndependent.matroid_closure_eq.ge h
+      · exact Matroid.subset_closure _ _ (by aesop_mat) (by aesop)
+  · refine H₁.isAlgebraic_iff.mpr fun j' ↦ ?_
+    by_cases H : j' = j
+    · subst H
+      convert H₂ <;> rw [Set.range_comp' (g := v), Subtype.range_val] <;> rfl
+    refine isAlgebraic_algebraMap (R := Algebra.adjoin R _) ⟨_, Algebra.subset_adjoin ?_⟩
+    exact ⟨⟨_, H⟩, rfl⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean]:
```suggestion
lemma IsTranscendenceBasis.of_isAlgebraic_adjoin_image_compl
    [FaithfulSMul R S] [NoZeroDivisors S] (i j : ι) (v : ι → S)
    (H₁ : IsTranscendenceBasis R fun x : {x // x ≠ i} ↦ v x)
    (H₂ : IsAlgebraic (Algebra.adjoin R (v '' {j}ᶜ)) (v j)) :
    IsTranscendenceBasis R fun x : {x // x ≠ j} ↦ v x := by
  obtain rfl | ne := eq_or_ne i j
  · exact H₁
  cases subsingleton_or_nontrivial S
  · have := (FaithfulSMul.algebraMap_injective R S).subsingleton
    exact (isTranscendenceBasis_iff_of_subsingleton _).mpr ⟨i, ne⟩
  have := Module.nontrivial R S
  have := (isDomain_iff_noZeroDivisors_and_nontrivial S).mpr ⟨‹_›, ‹_›⟩
  classical
  refine (AlgebraicIndependent.isTranscendenceBasis_iff_isAlgebraic ?_).mpr ?_
  · have : AlgebraicIndepOn R v (insert j {i, j}ᶜ) := .mono H₁.1 fun _ _ _ ↦ by aesop
    refine ((this.mono <| subset_insert ..).insert (i := i) fun h ↦ ((AlgebraicIndepOn.insert_iff
      (by simp)).mp this).2 ?_).mono fun k ↦ by by_cases k = i <;> aesop
    rw [← mem_algebraicClosure, ← SetLike.mem_coe, ← matroid_closure_eq] at H₂ h ⊢
    refine Matroid.closure_subset_closure_of_subset_closure ?_ H₂
    rintro _ ⟨k, hj, rfl⟩
    obtain rfl | hi := eq_or_ne k i
    exacts [h, Matroid.mem_closure_of_mem _ ⟨k, (·.elim hi hj), rfl⟩]
  · refine H₁.isAlgebraic_iff.mpr fun j' ↦ ?_
    obtain rfl | H := eq_or_ne j'.1 j
    · rwa [Set.image_eq_range] at H₂
    refine isAlgebraic_algebraMap (R := adjoin R _) ⟨_, subset_adjoin ?_⟩
    exact ⟨⟨_, H⟩, rfl⟩
```

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: It doesn't matter that it's non-unique; I've started developing the APIs [here](https://github.com/leanprover-community/mathlib4/commit/36c14d24192963e2f7a3ab69ac14e71a1b954187).

Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: Do you have any applications to this?

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: You mean other applications? I don't have one in mind, but I think extracting it makes the proof clearer / more structured, by not mixing the trivial and nontrivial parts together too much.
Since we don't have other uses for the APIs, I think it's reasonable to keep them in the same file, and only move them when a need arises.

Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: I still really dislike doing global choice on non-unique things. Would you be happy if I split off the theorems saying e.g. “any non-zero polynomial with the given root and minimal total degree is irreducible” instead?

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: That's a good idea too. This is the proof I extracted from your proof:
```
variable (R : Type*) {A ι : Type*} [Field R] [CommRing A] [Algebra R A] (a : ι → A)

theorem irreducible_minMvPoly [IsDomain A] (h : ¬ AlgebraicIndependent R a) :
    Irreducible (minMvPoly R a) := by
  refine ⟨fun hu ↦ ?_, fun q₁ q₂ e ↦ ?_⟩
  · have ⟨r, hr, eq⟩ := isUnit_iff_eq_C_of_isReduced.mp hu
    have := eq ▸ aeval_minMvPoly R a
    exact hr.ne_zero (by simpa using this)
  wlog h₁ : aeval a q₁ = 0 generalizing q₁ q₂
  · exact .symm (this q₂ q₁ (e.trans (mul_comm ..)) <| by simpa [h₁] using congr(aeval a $e))
  have ne : q₁ * q₂ ≠ 0 := e ▸ minMvPoly_ne_zero h
  rw [ne_eq, mul_eq_zero, not_or] at ne
  have := totalDegree_minMvPoly_le q₁ ne.1 h₁
  rw [e, totalDegree_mul_of_isDomain ne.1 ne.2, add_le_iff_nonpos_right, nonpos_iff_eq_zero] at this
  refine .inr (isUnit_iff_totalDegree_of_isReduced.mpr ⟨?_, this⟩)
  rw [totalDegree_eq_zero_iff_eq_C.mp this] at ne
  simpa using ne.2
```
I'm now trying to extract
```
theorem isAlgebraic_of_mem_vars_minMvPoly (i : ι) (hi : i ∈ (minMvPoly R a).vars) :
    IsAlgebraic (Algebra.adjoin R (a '' {i}ᶜ)) (a i) := by sorry
```

Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: I have extracted two more lemmas.

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: I've restructured the first main result (removing the `aux` lemma) at [this branch](https://github.com/leanprover-community/mathlib4/compare/erd1/separablyGenerated...alreadydone:mathlib4:erd1/separablyGenerated). I haven't looked at the subsequent results yet but they should be mostly fine.

File: Mathlib/FieldTheory/SeparablyGenerated.lean [hunk 5]
```diff
@@ -0,0 +1,407 @@
...
+  exact (Subalgebra.inclusion_injective hk'').ne_iff.mpr hF'd (by simpa [F''] using e)
+
+open IntermediateField
+
+include hp H in
+lemma exists_isTranscendenceBasis_and_isSeparable_of_linearIndepOn_pow_aux
+    (t : Set K) (x : K) (ht : IsTranscendenceBasis k ((↑) : t → K)) (hxt : x ∉ t) :
+    ∃ (i : ↑(insert x t)), (IsTranscendenceBasis k fun (j : {j // j ≠ i}) ↦ j.1.1) ∧
+      IntermediateField.adjoin k (insert x ↑t : Set K) ≤ (separableClosure
+        (IntermediateField.adjoin k (Subtype.val '' {i}ᶜ)) K).restrictScalars _ := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparablyGenerated.lean:284]: Why is this statement not
```suggestion
lemma exists_isTranscendenceBasis_and_isSeparable_of_linearIndepOn_pow_aux
    (t : Set K) (x : K) (ht : IsTranscendenceBasis k ((↑) : t → K)) (hxt : x ∉ t) :
    ∃ i ∈ insert x t, (IsTranscendenceBasis k ((↑) : ↥(insert x t \ {i}) → K)) ∧
      IntermediateField.adjoin k (insert x t) ≤ (separableClosure
        (IntermediateField.adjoin k (insert x t \ {i})) K).restrictScalars _ := by
```
?

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:284]: I suspect this would be easier to prove if we generalize the first main result to
```
variable (a : ι → K) (s : Set ι) (n : ι) (hs : AlgebraicIndepOn k a s)
variable (ha' : ¬ AlgebraicIndepOn k a (insert n s))

lemma exists_algebraicIndepOn_and_isSeparable_of_linearIndepOn_pow_of_adjoin_eq_top :
    ∃ i : ι, AlgebraicIndepOn k a (insert n s \ {i}) ∧
      IsSeparable (IntermediateField.adjoin k (a '' (insert n s \ {i}))) (a i) := by
  sorry
```

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 6]
```diff
@@ -540,3 +540,34 @@ variable (R S A)
...
   exact lift_trdeg_add_eq R S A
+
+variable {R S} in
+/-- If `t ∪ {j}` is a transcendence basis and `j` is algebraic over `t ∪ {i}`, then `t ∪ {i}` is
+also a transcendence basis. -/
+lemma IsTranscendenceBasis.of_isAlgebraic_adjoin_image_compl
+    [FaithfulSMul R S] [NoZeroDivisors S] (i j : ι) (v : ι → S)
+    (H₁ : IsTranscendenceBasis R fun x : {x // x ≠ i} ↦ v x)
+    (H₂ : IsAlgebraic (Algebra.adjoin R (v '' {j}ᶜ)) (v j)) :
+    IsTranscendenceBasis R fun x : {x // x ≠ j} ↦ v x := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:551]: This could be easily generalized to
```suggestion
lemma IsTranscendenceBasis.of_isAlgebraic_adjoin_image_compl
    [FaithfulSMul R S] [NoZeroDivisors S] (s : Set ι) (i j : ι) (v : ι → S)
    (H₁ : AlgebraicIndepOn R v s) (H₂ : ¬ AlgebraicIndepOn R v (insert i s))
    (alg : IsAlgebraic (Algebra.adjoin R (v '' (insert i s \ {j}))) (v j)) :
    AlgebraicIndepOn R v (insert i s \ {j}) := by
```

File: Mathlib/FieldTheory/SeparablyGenerated.lean [hunk 7]
```diff
@@ -0,0 +1,407 @@
...
+    rw [linearIndepOn_iff_image (f := (· ^ p)) (frobenius_inj K p).injOn,
+      ← Set.image_comp, ← linearIndepOn_iff_image (f := (· ^ p) ∘ Subtype.val)
+        ((frobenius_inj K p).comp Subtype.val_injective).injOn] at this
+    rw [← LinearMap.linearIndepOn_iff_of_injOn K'.val.toLinearMap Subtype.val_injective.injOn,
+      ← LinearMap.linearIndepOn_iff_of_injOn K'.val.toLinearMap Subtype.val_injective.injOn]
+    exact this
+
+/-- In a finitely generated field extension, there exists a maximal
+separably generated field extension. -/
+lemma exists_isTranscendenceBasis_forall_separableClosure_not_lt
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparablyGenerated.lean:333]: Instead of allowing t' to be an arbitrary set, we can restrict it to a subset of a fixed generating Finset, right? Then this is easy because there are only finitely many subsets?

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:333]: I removed this lemma in [this commit](https://github.com/leanprover-community/mathlib4/commit/8b4967611f3f3ebb5c5b7898dcbca9591ea3c358).

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:551]: In fact I'll extract both statements to matroid lemmas.

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:120]: I've finished refactoring this PR at [my branch](https://github.com/leanprover-community/mathlib4/compare/erd1/separablyGenerated...alreadydone:mathlib4:erd1/separablyGenerated). Let me know if it looks good to you!

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:551]: Could you move the new matroid lemmas into a new PR? It might be easier to trick combi people to review it that way. If you are busy them I am happy to do it (in the near future).

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:333]: I think this lemma seems useful to have in mathlib. There might be a better statement/proof as you indicated though.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:551]: #26510

File: Mathlib/FieldTheory/SeparablyGenerated.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparablyGenerated.lean:333]: Done in [this commit](https://github.com/leanprover-community/mathlib4/commit/2d275d10f112e5c2363d034b41bd577507cf48a7)

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
